US09056873B2
Preparation 27: tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate
To a mixture of tert-butyl 4-chloro-6,7-difluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (42.5 g, 139 mmol) and tert-butyl (3R,4R)-4-aminotetrahydro-2H-pyran-3-ylcarbamate (36.2 g, 167 mmol) was added IPA (425 mL) followed by 4-methylmorpholine (18.40 mL, 167 mmol). The reaction mixture was stirred at 60° C. for 20 hours under a nitrogen atmosphere. HPLC analysis indicated that the reaction was complete. The reaction mixture was subsequently cooled to room temperature and water (890 mL) was added slowly. The suspension was cooled in an ice/water bath to 6° C. and was stirred for 1 hour. The solids were collected by filtration and washed with water (30 mL) used to rinse the reaction vessel. The filter cake was washed with additional water (350 mL) and allowed to dry on the filter. The filter cake was subsequently dried in a vacuum oven at 60° C. over the weekend to afford the title compound (64.78 g, 93%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.36 (s, 9H), 1.50 (s, 9H), 1.59-1.61 (m, 1H), 1.97-1.99 (m, 1H), 1.97-1.99 (m, 1H), 3.46-3.49 (m, 2H), 3.80-3.83 (m, 3H), 4.31-4.33 (m, 1H), 4.73 (s, 1H), 6.59 (d, J=7.30 Hz, 1H), 7.43 (d, J=7.30 Hz, 1H). ESI-MS m/z [M+H]+ calc'd for C22H30ClFN4O6, 501. found, 501.

reactant | tert-butyl 4-chloro-6,7-difluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 139 mmol, 42.5 g | ClC1=NC(=C(C2=C1C(N(C2)C(=O)OC(C)(C)C)=O)F)F | C12H11ClF2N2O3
reactant | tert-butyl (3R,4R)-4-aminotetrahydro-2H-pyran-3-ylcarbamate | 167 mmol, 36.2 g | N[C@H]1[C@H](COCC1)NC(OC(C)(C)C)=O | C10H20N2O3
reactant | IPA | 425 mL | CC(C)O | C3H8O
reactant | 4-methylmorpholine | 167 mmol, 18.40 mL | CN1CCOCC1 | C5H11NO
solvent | water | 890 mL | O | H2O
product | tert-Butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 64.78 g, 93% | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
